US05521147
By the method of Example 1, Step F, 2.2 grams (0.011 mole) of 8-amino-5-chloro-3,4-dihydro-7-fluoro-2H-1-benzopyran and 2.2 grams (0.011 mole) of trichloromethyl chloroformate were reacted in 50 mL of toluene, yielding about 2.5 grams of 5-chloro-3,4-dihydro-7-fluoro-2H-1-benzopyran-8-yl isocyanate. The product was taken to the next step without further characterization.

reactant | 8-amino-5-chloro-3,4-dihydro-7-fluoro-2H-1-benzopyran | 0.011 mole, 2.2 grams | NC1=C(C=C(C=2CCCOC21)Cl)F | C9H9ClFNO
reactant | trichloromethyl chloroformate | 0.011 mole, 2.2 grams | ClC(=O)OC(Cl)(Cl)Cl | C2Cl4O2
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
product | 5-chloro-3,4-dihydro-7-fluoro-2H-1-benzopyran-8-yl isocyanate | about 2.5 grams | ClC1=CC(=C(C2=C1CCCO2)N=C=O)F | C10H7ClFNO2
